US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpiperidin-4-ol
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-hydroxy-4-phenylpiperidine (10.6 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (3.9 mg). HRMS calcd for C22H22N2O3: 362.1630, found 362.1623.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-hydroxy-4-phenylpiperidine | 0.060 mmol, 10.6 mg | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpiperidin-4-ol | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCC(CC1)(O)C1=CC=CC=C1 | C22H22N2O3
